US04783472
7-Chloroformyl-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride (8.8 g) is added, at a temperature between 60° and 75° C., to a solution of 3-cinnamoylaniline (6.57 g) and triethylamine (5.95 g) in dioxane (165 cc) which is heated to a temperature in the vicinity of 60° C., in the course of 10 minutes. The suspension obtained is heated, with stirring, at a temperature in the vicinity of 100° C. for 6 hours and 30 minutes and then stirred at a temperature in the vicinity of 20° C. for 16 hours. The solvent is evaporated off under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 50° C. The residue is dissolved in methylene chloride (500 cc). The solution obtained is washed 4 times with distilled water (650 cc in total) and then dried over anhydrous magnesium sulphate, treated with decolourizing charcoal (0.5 g), filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 50° C. A crude product (13.5 g) is thereby obtained, which is dissolved in boiling acetonitrile (300 cc). Decolourizing charcoal (0.5 g) is added to the solution obtained and the suspension is filtered in the heated state. The filtrate is cooled at a temperature in the vicinity of 4° C. for 16 hours. The crystals formed are separated by filtration, washed 3 times with acetonitrile (60 cc in total) and then dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 20° C. in the presence of potassium hydroxide pellets. N-(3- cinnamoylphenyl)-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole -7-carboxamide (7.1 g) in the form of beige-coloured crystals, m.p. 190° C., is thereby obtained.

reactant | 7-Chloroformyl-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride | 8.8 g | Cl.ClC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2
reactant | 3-cinnamoylaniline | 6.57 g | C(C=CC1=CC=CC=C1)(=O)C=1C=C(N)C=CC1 | C15H13NO
reactant | triethylamine | 5.95 g | C(C)N(CC)CC | C6H15N
reactant | charcoal | 0.5 g | C | CH4
solvent | dioxane | 165 cc | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 300 cc | C(C)#N | C2H3N
product | N-(3- cinnamoylphenyl)-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole -7-carboxamide | 7.1 g | C(C=CC1=CC=CC=C1)(=O)C=1C=C(C=CC1)NC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2 | C27H21N3O2S
